US08049015B2
4-(5-Ethoxycarbonylmethyl-pyridin-3-yl)-3-ethylaminomethyl-benzoic acid (0.347 g, 1.0 mmol) and diisopropylethylamine (0.44 mL, 2.5 mmol) were combined in CH2Cl2 (75 mL). Cyclopropanecarbonyl chloride (0.12 mL, 1.3 mmol) was added slowly, and the reaction was stirred at room temperature for 10 minutes. The mixture was quenched with H2O (100 mL), and the product was extracted with CH2Cl2. The combined organic layers were washed with brine and concentrated. The crude material was dissolved in MeOH (75 mL), 1N aqueous LiOH (5 mL) was added and stirred at room temperature for 3 hours. Additional 1N aqueous LiOH (1 mL) was added and the reaction was stirred at room temperature for 3 days. The mixture was quenched with 1N aqueous HCl (5 mL) and extracted with EtOAc. The combined organic layers were washed with H2O and brine, and then concentrated to give 4-(5-carboxymethyl-pyridin-3-yl)-3-[(N-cyclopropanecarbonyl-N-ethyl-amino)-methyl]-benzoic acid.

reactant | 4-(5-Ethoxycarbonylmethyl-pyridin-3-yl)-3-ethylaminomethyl-benzoic acid | 1.0 mmol, 0.347 g | C(C)OC(=O)CC=1C=C(C=NC1)C1=C(C=C(C(=O)O)C=C1)CNCC | C19H22N2O4
reactant | diisopropylethylamine | 2.5 mmol, 0.44 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Cyclopropanecarbonyl chloride | 1.3 mmol, 0.12 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-carboxymethyl-pyridin-3-yl)-3-[(N-cyclopropanecarbonyl-N-ethyl-amino)-methyl]-benzoic acid | C(=O)(O)CC=1C=C(C=NC1)C1=C(C=C(C(=O)O)C=C1)CN(CC)C(=O)C1CC1 | C21H22N2O5
